US03937833
2,7-Bis(5-piperidinovaleryl)xanthone
Following the procedure of Example 42, only substituting for 2,7-bis(4-piperidinobutyryl)xanthene, 25.8 g (0.05 mole) 2,7-bis(5-piperidinovaleryl)xanthene and using 600 ml of glacial acetic acid and 19.7 g (0.066 mole) sodium dichromate, the solid obtained is recrystallized from a benzene-heptane mixture to give the title compound, M.P. 109°-110°C.

reactant | 2,7-bis(4-piperidinobutyryl)xanthene | N1(CCCCC1)CCCC(=O)C1=CC=2CC3=CC(=CC=C3OC2C=C1)C(CCCN1CCCCC1)=O | C31H40N2O3
reactant | 2,7-bis(5-piperidinovaleryl)xanthene | 0.05 mole, 25.8 g | N1(CCCCC1)CCCCC(=O)C1=CC=2CC3=CC(=CC=C3OC2C=C1)C(CCCCN1CCCCC1)=O | C33H44N2O3
reactant | sodium dichromate | 0.066 mole, 19.7 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[Na+].[Na+]
solvent | acetic acid | 600 ml | C(C)(=O)O | C2H4O2
product | 2,7-Bis(5-piperidinovaleryl)xanthone | N1(CCCCC1)CCCCC(=O)C1=CC=2C(C3=CC(=CC=C3OC2C=C1)C(CCCCN1CCCCC1)=O)=O | C33H42N2O4
